* S2 resonant transfer: C_src -> Lx -> R -> diode (current-zero self-quench) -> C_bank
Csrc src 0 1n ic=1000
Cbank bnk 0 1n ic=0
Lx src mid 1m
Rr mid a 100.0
D1 a bnk DI
.model DI D(IS=1e-12 N=0.001 RS=1e-6)
.control
tran 0.5n 8u uic
meas tran thalf WHEN i(Lx)=0 CROSS=1
meas tran vbank FIND v(bnk) AT=6u
wrdata s2_R100.dat i(Lx)
.endc
.end
